Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4]([O:3][H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],82.7718351359902
[C:1]([N:2]=[C:3]([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([O:7][H:16])([H:14])[H:15])[H:13]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],71.240778522226
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:5](#[N:6])[H:8].[N:1](=[C:2]1\[O:3][C:4]1([H:9])[H:10])\[H:7],78.42802020959971
[C-:1]([O+:2]=[C:3]([C:4]1([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:10])[H:17])[H:11])([H:8])[H:9]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],34.060633838756104
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3]([N:4]([H:13])[H:14])(=[C:5]=[N:6][H:9])[H:12]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],8.804363573727706
[C-:3]#[O+:4].[C-:5]#[O+:6].[O:1]([C:2]([H:8])([H:9])[H:10])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],54.37812397232961
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12],74.6317559814408
[C:1](=[C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])[H:11])([H:8])[H:10].[H:9][H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],82.7081208170495
[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[N:2][H:9])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:11].[H:6][H:10],63.7631425907233
[N+:1](#[C:2][C:3]1=[C:4]=[N+:5]([H:9])[N-:6][N-:7]1)[H:8]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,34.05789545777799
[C:1]([C:2]([C:3](=[O:4])/[C:5](=[C:6](\[O:7][H:14])[H:17])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],68.11092904651657
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[C:6]=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:14])([H:15])([H:16])[H:17],76.0976380703768
[C-:3]#[O+:4].[O:1]=[C:2]([C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7],45.36072473138973
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4]1([O:5][H:14])=[C:7]([H:17])[C:6]1([H:15])[H:16],83.1772456745951
[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C@@:2]([C:5]#[N:6])([H:10])[C:3][C:4]1([H:9])[H:11],91.50702214688732
[O:1]([C@@:2]([C:3](=[C:6]=[C:7]([H:10])[H:13])[H:11])([C:4](=[O:5])[H:12])[H:9])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],72.15603533505826
[C-:4]#[O+:5].[C:1]([C:2](=[C:3]([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:11][H:14]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],32.254875640414596
[O:1]([C:2]1=[N+:3]=[C-:4][N:5]([H:8])[N:6]1[H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],25.39903771007579
[C:5](=[O:6])([H:10])[H:11].[N:1]1([H:7])[C:2][C:3]([H:8])([H:9])[O:4]1>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],13.779029824852998
[C:1]([C:3]([C@@:2]1([H:10])[C:5]([H:14])([H:15])[O:6]1)([H:11])[H:12])([H:7])([H:8])[H:9].[O:4]([H:13])[H:16]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],61.34895273287691
[C:1]([C:2](=[C:4]=[C:5]([O:3][H:11])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],68.0265517729854
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[N:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]1([H:13])[H:14].[O:1]=[C:2]=[N:7][H:15],86.23887998414091
[N:1](=[C:2]=[C:3]([H:8])[H:9])[O:4][C:5]([C:6]#[N:7])([H:10])[H:11]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],29.430159747733185
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:16])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],66.69304784026451
[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](=[C:2]=[C:3]([H:8])[H:9])([C:4]([C:5]#[N:6])([H:10])[H:11])[H:7],64.0739928765266
